US07125901B2
A mixture of 2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazole-5-carboxylic acid (120 mg), [4-(methylthio)benzyl]amine (45.4 mg), 1-hydroxybenzotriazole (44 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (59.6 mg) in DMF (2 ml) was stirred at r.t. for 17 hours. The reaction mixture was poured into saturated NaHCO3, and extracted with CHCl3. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified by preparative silica gel chromatography with CHCl3/AcOEt (1:1) as an eluent to give tert-butyl (4-{2-[2-(acetylamino)-5-({[4-(methylthio)benzyl]amino}carbonyl)-1,3-thiazol-4-yl]ethyl}phenyl)carbamate (163.5 mg) as an off-white solid.

reactant | 2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazole-5-carboxylic acid | 120 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)C(=O)O | C19H23N3O5S
reactant | [4-(methylthio)benzyl]amine | 45.4 mg | CSC1=CC=C(CN)C=C1 | C8H11NS
reactant | 1-hydroxybenzotriazole | 44 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 59.6 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl (4-{2-[2-(acetylamino)-5-({[4-(methylthio)benzyl]amino}carbonyl)-1,3-thiazol-4-yl]ethyl}phenyl)carbamate | 163.5 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(OC(C)(C)C)=O)C(=O)NCC1=CC=C(C=C1)SC | C27H32N4O4S2
